US08017792B2
Synthesis of 1-bromo-4-chloro-3-(4-methylbenzyl)benzene
Synthesis was performed by a similar method as in Preparation Example 14 using 5-bromo-2-chlorobenzoic acid and toluene.

reactant | 5-bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-4-chloro-3-(4-methylbenzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C | C14H12BrCl
